US08110585B2
To fuming nitric acid (20.3 mL, 409 mmol) was slowly added dropwise 4-fluoro-2-methylbenzoic acid (4.50 g, 29.2 mmol) while maintaining the temperature of the reaction mixture at 5-10° C. The reaction solution was stirred at 0-5° C. for 1 hr, and poured into ice. The precipitated solid was recovered, washed with water, and dried under reduced pressure to give 4-fluoro-2-methyl-3-nitrobenzoic acid (5.70 g, purity 25%) as a crudely purified product.

reactant | nitric acid | 409 mmol, 20.3 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-fluoro-2-methylbenzoic acid | 29.2 mmol, 4.50 g | FC1=CC(=C(C(=O)O)C=C1)C | C8H7FO2
product | 4-fluoro-2-methyl-3-nitrobenzoic acid | 5.70 g | FC1=C(C(=C(C(=O)O)C=C1)C)[N+](=O)[O-] | C8H6FNO4
